US04526894
A mixture of 2.1 grams of dimethyl 3-aminophthalate, 1.4 grams of benzoylacetic acid and 2.9 grams of dicyclohexlcarbodiimide is dissolved in 15 ml of tetrahydrofuran and the mixture is stirred at room temperature for eighteen hours. The insoluble matter are removed by filtration, the filtrate is concentrated, and 1.9 grams of dimethyl 3-benzoylacetylaminophthalate, colorless crystals, melting point 100° to 103° C. is obtained. This (1.9 grams) is dissolved in 30 ml of methanol, heated to reflux for four hours with 0.48 grams of sodium hydride, cooled, adjusted to pH 3 with diluted hydrochloric acid, crystals separated out therefrom are collected by filtration and recrystallized from methanol to give 1.3 grams of methyl 3-benzoyl-4-hydroxy-2-quinolone-5-carboxylate, pale yellow needles, melting point 263° to 265° C.

reactant | dimethyl 3-aminophthalate | 2.1 grams | NC1=C(C(C(=O)OC)=CC=C1)C(=O)OC | C10H11NO4
reactant | benzoylacetic acid | 1.4 grams | C(C1=CC=CC=C1)(=O)CC(=O)O | C9H8O3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | dimethyl 3-benzoylacetylaminophthalate | 1.9 grams | C(C1=CC=CC=C1)(=O)CC(=O)NC1=C(C(C(=O)OC)=CC=C1)C(=O)OC | C19H17NO6
